US20010041709A1
(Z)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester:
To a solution of (E)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-yn-1-ol (113 mg, 0.46 mmol) in THF (10 mL) was added triphenylphosphine (218 mg, 0.71 mmol) at 0° C. To the mixture was added diethyl azodicarboxylate (0.109 mL, 0.71 mmol) and (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (169 mg, 0.71 mmol) and the reaction mixture was stirred at 0° C. for 2 h and then at room temperature overnight. Water (15 mL) was added and the mixture was extracted with methylene chloride (3×30 mL). The combined and dried organic phases were evaporated and the residue purified by column chromatography using methylene chloride as eluent to give the title compound in 35 mg yield.

reactant | (E)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-yn-1-ol | 0.46 mmol, 113 mg | C\C(=C/CO)\C#CC1=CC(=CC(=C1)Cl)Cl | C12H10Cl2O
reactant | triphenylphosphine | 0.71 mmol, 218 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.71 mmol, 0.109 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 0.71 mmol, 169 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | 15 mL | O | H2O
product | (Z)-3-methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(\C=C(/C#CC1=CC(=CC(=C1)Cl)Cl)\C)=O | C14H12Cl2O2
